* source POWER_DISTRIBUTION
.EXTERNAL INPUT PMIC_ON
.EXTERNAL INPUT LED_PG
.EXTERNAL INPUT POWERMODE
C_C1         0 N02995  22000n  TC=0,0 
C_C2         0 N02995  100n  TC=0,0 
V_V2         N02995 0 3.3Vdc
R_R3         PMIC_ON N03225  10k TC=0,0 
V_V3         N03669 0 1Vdc
C_C3         0 N03484  100n  TC=0,0 
R_R2         0 N03706  360k TC=0,0 
C_C5         0 N03484  22000n  TC=0,0 
L_L1         N03669 N03484  0.47uH  
R_R1         N03706 N03484  220k TC=0,0 
C_C4         0 N03484  22000n  TC=0,0 
